US04235904
4-(4-fluorophenyl)-5-[2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl]-1,3-dioxol-2-one dihydrochloride
A solution of 20 g of 1-p-fluorobenzoyl-1-hydroxy-3-(4-(2-methoxyphenyl)-1-piperazinyl)propane in 200 cc of anhydrous chloroform is added in 60 minutes to 33 ml of a 20% phosgene solution in toluene, stirred and cooled to 0° C.

reactant | 1-p-fluorobenzoyl-1-hydroxy-3-(4-(2-methoxyphenyl)-1-piperazinyl)propane | 20 g | FC1=CC=C(C(=O)C(CCN2CCN(CC2)C2=C(C=CC=C2)OC)O)C=C1 | C21H25FN2O3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | chloroform | 200 cc | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(4-fluorophenyl)-5-[2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl]-1,3-dioxol-2-one dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C=1OC(OC1CCN1CCN(CC1)C1=C(C=CC=C1)OC)=O | InChI=1S/C22H23FN2O4.2ClH/c1-27-19-5-3-2-4-18(19)25-14-12-24(13-15-25)11-10-20-21(29-22(26)28-20)16-6-8-17(23)9-7-16;;/h2-9H,10-15H2,1H3;2*1H
